US06605726B1
N-Tosyl-D-valine
A solution of tosyl chloride (20 g, 0.1 mol) in diethyl ether (100 ml) was added in drops at room temperature to a solution of D-valine (11.7 g, 0.1 mol) in 200 ml of 1N NaOH, and the two-phase mixture was stirred vigorously for 4 hours. Then, the diethyl ether phase was separated, the aqueous phase was washed twice more with diethyl ether and acidified at 0° C. by adding concentrated HCl. After 30 minutes, it was suctioned off, liberally rewashed with ice water and dried for several hours at 0.01 Torr. 18.1 g, (67%), of colorless crystals was obtained (melting point: 147° C.).

reactant | tosyl chloride | 0.1 mol, 20 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | D-valine | 0.1 mol, 11.7 g | N[C@H](C(C)C)C(=O)O | C5H11NO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | NaOH | 1N, 200 ml | [OH-].[Na+]
product | N-Tosyl-D-valine | S(=O)(=O)(C1=CC=C(C)C=C1)N[C@H](C(C)C)C(=O)O | C12H17NO4S
